US08624034B2
Step A) 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole
Pd(dppf)Cl2 (280 mg, 0.343 mmol) was added to a mixture of 2-(4-bromophenyl)-2H-1,2,3-triazole (255 mg, 1.14 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (350 mg, 1.38 mmol), and potassium acetate (340 mg, 3.46 mmol) in 1,4-dioxane (10 mL). The reaction was heated to 80° C. and stirred at this temperature overnight. The reaction was allowed to cool to rt and was diluted with EtOAc (30 mL) and brine (30 mL). The mixture was filtered through celite, and the organic layer was separated from the filtrate. The aqueous layer was extracted with EtOAc (2×30 mL) and the organics were combined, dried (MgSO4), filtered and concentrated. The crude material was purified via flash chromatography using an Analogix SF15-12 g column and an eluent of EtOAc in n-heptane (0-10%) to afford the title compound as an orange solid (240.6 mg, 78.0%). MS (LCMS) m/z 272.4 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.37 (s, 12H) 7.83 (s, 2H) 7.94 (d, 2H) 8.10 (d, J=8.59 Hz, 2H).

reactant | 2-(4-bromophenyl)-2H-1,2,3-triazole | 1.14 mmol, 255 mg | BrC1=CC=C(C=C1)N1N=CC=N1 | C8H6BrN3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.38 mmol, 350 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.46 mmol, 340 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | brine | 30 mL | [Cl-].[Na+].O
catalyst | Pd(dppf)Cl2 | 0.343 mmol, 280 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole | 240.6 mg, 78.0% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1N=CC=N1)C | C14H18BN3O2
